US04038396
A solution of 100 mg. of 3-amino-5-nitro-2-pyridone in 1.5 ml. of pyridine was cooled and treated with 200 mg. of benzoyl chloride. After 2 hours water was added. The oil that separated was washed with water and triturated with ether. The resultant solid was recrystallized from ethyl acetate to give 3-benzoylamino-5-nitro-2-pyridone, m.p. 267°-268° C.

reactant | 3-amino-5-nitro-2-pyridone | NC=1C(NC=C(C1)[N+](=O)[O-])=O | C5H5N3O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | O | H2O
product | 3-benzoylamino-5-nitro-2-pyridone | C(C1=CC=CC=C1)(=O)NC=1C(NC=C(C1)[N+](=O)[O-])=O | C12H9N3O4
